US06414002B1
To a 0° C. solution of 3-chloro-4-methoxy aniline (1.0 g; 6.4 mmol) in 1:1 H2O:conc. H2SO4 (100 mL) was added very slowly a solution of NaNO2 (0.5 g; 7.6 mmol) in H2O (10 mL). Thick yellow fumes were emitted, and the black solution was then heated to reflux for 30 min. The mixture was extracted with EtOAc (4×50 mL) and the combined extracts were concentrated in vacuo. The residue was chromatographed (SiC2; 4:1 hex:EtOAc) to obtain 3-chloro-4-methoxy phenol (300 mg; 30%) as a yellow oil.

reactant | 3-chloro-4-methoxy aniline | 6.4 mmol, 1.0 g | ClC=1C=C(N)C=CC1OC | C7H8ClNO
reactant | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 7.6 mmol, 0.5 g | N(=O)[O-].[Na+]
solvent | H2O | 10 mL | O | H2O
product | 3-chloro-4-methoxy phenol | 300 mg, 30% | ClC=1C=C(C=CC1OC)O | C7H7ClO2
